US09447090B2
To a solution of 340 mg of sodium 2,2-dimethyl-5-(pyridin-2-yl)-1,3-dioxane-5-carboxylate in 5 ml of dioxane and 1 ml of water was added 0.21 ml of isobutyl chloroformate under ice-cooling, followed by stirring for 1 hour. A solution of 850 mg of sodium azide in 3 ml of water was added thereto, followed by stirring for 10 minutes under ice-cooling. To the reaction mixture were added water and diethyl ether to carry out a layer separation operation. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. To the obtained residue was added 5 ml of toluene, followed by stirring at 100° C. for 5 minutes. After leaving to be cooled, 0.7 ml of benzyl alcohol was added thereto at room temperature, followed by stirring at 100° C. for 19 hours. After leaving to be cooled, the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 223 mg of benzyl[2,2-dimethyl-5-(pyridin-2-yl)-1,3-dioxan-5-yl]carbamate.

reactant | sodium 2,2-dimethyl-5-(pyridin-2-yl)-1,3-dioxane-5-carboxylate | 340 mg | CC1(OCC(CO1)(C(=O)[O-])C1=NC=CC=C1)C.[Na+]
reactant | isobutyl chloroformate | 0.21 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium azide | 850 mg | [N-]=[N+]=[N-].[Na+]
reactant | benzyl alcohol | 0.7 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | 1 ml | O | H2O
solvent | water | 3 ml | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | benzyl[2,2-dimethyl-5-(pyridin-2-yl)-1,3-dioxan-5-yl]carbamate | 223 mg | C(C1=CC=CC=C1)OC(NC1(COC(OC1)(C)C)C1=NC=CC=C1)=O | C19H22N2O4
